US04745116
A solution of 4-ethyl-6-nitro-anthranil, (1.5 gm, 0.0577 mol.) in anhydrous ether (50 ml) was mixed with an ethereal solution of diazomethane (100 ml, conc. 1 gm CH2N2 /80 ml) and stirred for 16 hrs. The excess diazomethane was removed by pouring the reaction mixture over a short column of silica gel and eluting the column with ether. The ethereal solution was evaporated to give a yellow solid and this solid was purified by column chromatography (40% methylene chloride: pet. ether 30-60) to yield 4-ethyl-7-methyl-6-nitro-anthranil as a solid. The solid was recrystallized from 10% ether: pet ether 30-60, Yield: 1.145 gm. mp. 68°-69° C., IR (CHCl3): 2980, 1625, 1550, 1460 cm-1. H-NMR (CDCl3): 1.40 (t, 3H, CH3), 2.80 (s, 3H, CH3), 2.90 (q, 1H, CH2), 7.30 (br. s, 1H, H5), 9.30 (s, 1H, H3).

reactant | 4-ethyl-6-nitro-anthranil | C(C)C=1C2=CON=C2C=C(C1)[N+](=O)[O-] | C9H8N2O3
reactant | diazomethane | 100 ml, 1 gm | [N+](=[N-])=C | CH2N2
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-ethyl-7-methyl-6-nitro-anthranil | C(C)C=1C2=CON=C2C(=C(C1)[N+](=O)[O-])C | C10H10N2O3
